US06630489B1
7-methoxy-N-(3-morpholinopropyl)-4-(4-phenoxyphenoxy)quinoline-6-carboxamide
A mixture of 4-chloro-7-methoxy-N-(3-morpholinopropyl)quinoline-6-carboxamide (0.154 g), 4-phenoxyphenol (0.11 g), potassium carbonate (0.207 g) and DMF (4 ml) was stirred and heated to 100° C. for 16 hours. The mixture was evaporated and the residue was partitioned between ethyl acetate and water. The aqueous phase was further extracted with ethyl acetate and the combined organic extracts were washed with a saturated aqueous sodium chloride solution, dried over magnesium sulphate and evaporated. The residue was purified by column chromatography on silica using increasingly polar mixtures of methylene chloride and methanol as eluent. There was thus obtained the title compound (0.13 g); NMR Spectrum: (CDCl3) 1.86 (m, 2H), 2.47 (m, 6H), 3.6 (m, 2H), 3.7 (m, 4H), 4.11 (s, 3H), 6.48 (d, 1H), 7.04-7.18 (m, 7H), 7.37 (m, 2H), 7.51 (s, 1H), 8.02 (t, 1H), 8.65 (d, 1H), 9.19 (s, 1H); Mass Spectrum M+H+ 514.

reactant | 4-chloro-7-methoxy-N-(3-morpholinopropyl)quinoline-6-carboxamide | 0.154 g | ClC1=CC=NC2=CC(=C(C=C12)C(=O)NCCCN1CCOCC1)OC | C18H22ClN3O3
reactant | 4-phenoxyphenol | 0.11 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | potassium carbonate | 0.207 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 7-methoxy-N-(3-morpholinopropyl)-4-(4-phenoxyphenoxy)quinoline-6-carboxamide | 0.13 g | COC1=C(C=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)OC1=CC=CC=C1)C(=O)NCCCN1CCOCC1 | C30H31N3O5
